US07829560B2
N-[4-({2-[(1,3-dioxolan-2-ylmethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-morpholin-4-ylbenzamide (Compound B369).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and C-[1,3]dioxolan-2-yl-methylamine according to conditions described in general procedure C. Mp: 122-124° C.; 1H NMR (400 MHz, DMSO-d6) δ 3.25-3.30 (m, 6 H), 3.73-3.83 (m, 8 H), 4.19 (bs, 1 H), 6.36 (bs, 1 H), 7.04 (d, J=12.0 Hz, 1 H), 7.26-7.31 (m, 2 H), 7.38-7.61 (m, 5 H), 7.83 (d, J=8.8 Hz, 1 H), 7.99 (d, J=9.2 Hz, 1 H), 8.20 (s, 1 H), 10.46 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | C-[1,3]dioxolan-2-yl-methylamine | O1C(OCC1)CN | C4H9NO2
product | N-[4-({2-[(1,3-dioxolan-2-ylmethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-morpholin-4-ylbenzamide | O1C(OCC1)CNC1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O | C29H28FN5O5
